US06489344B1
Using the procedure described above, reaction of (2-aminoethyl)[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methylamine and 2-chloro-5-nitro-6-amino-cyanopyridine were reacted to afford [4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methyl{2-[(5-nitro-6-amino(2-pyridyl))amino]ethyl}amine.

reactant | (2-aminoethyl)[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methylamine | NCCNCC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C=1NC=CN1 | C16H16Cl2N6
reactant | 2-chloro-5-nitro-6-amino-cyanopyridine | ClC1=NC(=C(C=C1C#N)[N+](=O)[O-])N | C6H3ClN4O2
product | [4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]methyl{2-[(5-nitro-6-amino(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)N(CCNC1=NC(=C(C=C1)[N+](=O)[O-])N)C | C21H19Cl2N9O2
